US04732998
Tetraethyl [2-(p-chlorophenoxy)-ethoxymethylene]-bisphosphonate
Anhydrous zinc chloride (10 g) was added at 150° C. to a mixture of dichloromethyl 2-(p-chlorophenoxy)-ethyl ether (5.1 g) and triethyl phosphite (6.9 ml). When the evolution of ethyl chloride ceased, the mixture was cooled, taken up in ether (250 ml), washed with aqueous sodium bicarbonate, dried and evaporated. Unreacted triethyl phosphite was removed in vacuo, and the crude product was used in the next step without further purification.

reactant | dichloromethyl 2-(p-chlorophenoxy)-ethyl ether | 5.1 g | ClC1=CC=C(OCCOC(Cl)Cl)C=C1 | C9H9Cl3O2
reactant | triethyl phosphite | 6.9 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | ethyl chloride | C(C)Cl | C2H5Cl
solvent | ether | 250 ml | CCOCC | C4H10O
catalyst | zinc chloride | 10 g | [Cl-].[Zn+2].[Cl-]
product | Tetraethyl [2-(p-chlorophenoxy)-ethoxymethylene]-bisphosphonate | ClC1=CC=C(OCCOC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)C=C1 | C17H29ClO8P2
